US07208500B2
Intermediate 2a: 2-(3-Fluoro-4-hydroxy-phenyl)-N-methyl-acetamide
was prepared from 3-fluoro-4-hydroxyphenylactic acid and methyl amine following Method A. S1H NMR (300 MHz, CD3OD) δ 7.89 (s, 1H), 6.90 (d, 1H, J=13.37 Hz), 6.82–6.71 (m, 1H), 3.29 (s, 2H), 2.62 (s, 3H). LCMS (ESI+) [M+H]/z Calc'd 184, found 184.

reactant | 3-fluoro-4-hydroxyphenylactic acid | FC=1C=C(C=CC1O)CC(=O)O | C8H7FO3
reactant | methyl amine | CN | CH5N
product | 2-(3-Fluoro-4-hydroxy-phenyl)-N-methyl-acetamide | FC=1C=C(C=CC1O)CC(=O)NC | C9H10FNO2
